US07652143B2
2-(3-Benzyl-5-(4-methoxyphenyl)-2-oxoimidazolidin-1-yl)-3-methylbutyric acid (150 mg; 0.39 mmol) was introduced into DMF (10 ml) and cooled to 0° C. Then N,N-diisopropylethylamine (202 mg; 1.56 mmol), O-benzylhydroxylamine hydrochloride (125 mg, 0.78 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU; 223 mg; 0.58 mmol) were added, and the mixture was stirred at 0° C. for 2 h. The reaction solution was then concentrated and partitioned between dilute HCl solution/EtOAc and extracted with EtOAc (2×). The combined organic phases were dried over MgSO4, and the solvent was removed in a rotary evaporator. Purification by chromatography resulted in 2-(3-benzyl-5-(4-methoxyphenyl)-2-oxoimidazolidin-1-yl)-N-benzyloxy-3-methylbutyramide (116 mg; 0.24 mmol). MS: 488.25 (M+H); Rt: 3.50 min (method: gradient 95% H2O (0.05% TFA) to 95% acetonitrile over 3.5 min, 95% acetonitrile for 1.0 min, 5% acetonitrile 1.0 min; flow rate 0.5 ml/min; column 1 μL (Merck Purospher 5μ 2×55 mm); 30° C.)

reactant | 2-(3-Benzyl-5-(4-methoxyphenyl)-2-oxoimidazolidin-1-yl)-3-methylbutyric acid | 0.39 mmol, 150 mg | C(C1=CC=CC=C1)N1C(N(C(C1)C1=CC=C(C=C1)OC)C(C(=O)O)C(C)C)=O | C22H26N2O4
reactant | N,N-diisopropylethylamine | 1.56 mmol, 202 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-benzylhydroxylamine hydrochloride | 0.78 mmol, 125 mg | Cl.C(C1=CC=CC=C1)ON
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.58 mmol, 223 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(3-benzyl-5-(4-methoxyphenyl)-2-oxoimidazolidin-1-yl)-N-benzyloxy-3-methylbutyramide | 0.24 mmol, 116 mg | C(C1=CC=CC=C1)N1C(N(C(C1)C1=CC=C(C=C1)OC)C(C(=O)NOCC1=CC=CC=C1)C(C)C)=O | C29H33N3O4
